US05374609
N-(5-(4-Fluorophenyl)-4-pentynyloxy)-phthalimide (Example 1.10)
33.4 g (0,205 mol) of N-hydroxyphthalimide and 53.8 g (0.205 mol) of triphenylphosphine were added to a solution of 33.1 g (0.186 mol) of 5-hydroxy-1-(4-fluorophenyl)-1-pentyne in 430 ml of dry tetrahydrofuran. 35.7 g (0.205 mol) of diethyl azodicarboxylate were then added dropwise in the course of 2.5 hours with temperature control (max. 40° C.). Stirring was carried out overnight at room temperature, the mixture was evaporated down under reduced pressure and the residue was taken up with 300 ml of dichloromethane. The solution was washed twice with sodium carbonate solution and once with saturated sodium chloride solution. After drying and evaporating down, the crude product was purified by chromatography over silica gel. The eluent used was initially dichloromethane/n-hexane and subsequently pure dichloromethane.

reactant | N-hydroxyphthalimide | 0,205 mol, 33.4 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 0.205 mol, 53.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-hydroxy-1-(4-fluorophenyl)-1-pentyne | 0.186 mol, 33.1 g | OCCCC#CC1=CC=C(C=C1)F | C11H11FO
reactant | diethyl azodicarboxylate | 0.205 mol, 35.7 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 430 ml | O1CCCC1 | C4H8O
product | N-(5-(4-Fluorophenyl)-4-pentynyloxy)-phthalimide | FC1=CC=C(C=C1)C#CCCCON1C(C=2C(C1=O)=CC=CC2)=O | C19H14FNO3
